US08541592B2
((1R,2S,4R,5S)-5-(Benzyloxy)bicyclo[2.2.1]heptan-2-yloxy)(tert-butyl)diphenylsilane
To a solution of (1R,2S,4R,5S)-5-(benzyloxy)bicyclo[2.2.1]heptan-2-ol (4.20 g, 19.2 mmol) in DMF (10 mL) was added tert-butylchlorodiphenylsilane (6.00 mL, 23.1 mmol) and imidazole (3.27 g, 48.1 mmol). The resulting mixture was stirred at ambient temp. overnight. The mixture was partitioned between diethyl ether and water. The organic portion was separated, washed with brine, and concentrated in vacuo. The residue was purified by flash column chromatography (0 to 5% of EtOAc in hexanes) to give the title compound as a colorless oil.

reactant | (1R,2S,4R,5S)-5-(benzyloxy)bicyclo[2.2.1]heptan-2-ol | 19.2 mmol, 4.20 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)O | C14H18O2
reactant | tert-butylchlorodiphenylsilane | 23.1 mmol, 6.00 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 48.1 mmol, 3.27 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ((1R,2S,4R,5S)-5-(Benzyloxy)bicyclo[2.2.1]heptan-2-yloxy)(tert-butyl)diphenylsilane | C(C1=CC=CC=C1)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C30H36O2Si
